US08211901B2
Preparation of 6-(8-methylquinolin-4-yloxy)-1-naphthoic acid
The title compound (1.25 g, 55% yield) was prepared as a brown solid from 6-hydroxy-1-naphthoic acid (1.43 g, 7.6 mmol) and 4-chloro-8-methylquinoline (1.62 g, 9.14 mmol) by an analogous procedure to that described in example 1. LC-MS (m/z) 330 (M+1).

reactant | 6-hydroxy-1-naphthoic acid | 7.6 mmol, 1.43 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | 4-chloro-8-methylquinoline | 9.14 mmol, 1.62 g | ClC1=CC=NC2=C(C=CC=C12)C | C10H8ClN
product | 6-(8-methylquinolin-4-yloxy)-1-naphthoic acid | 1.25 g, 55% yield | CC=1C=CC=C2C(=CC=NC12)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C21H15NO3
